US08013156B2
4-[4-(3-Dimethylamino-benzyloxy)-[1,2,5]thiadiazol-3-yl]-piperazine-1-carboxylic acid (3,5-bis-trifluoromethyl-phenyl)-amide.
To a round bottom flask equipped with a magnetic stir bar was added 4-(4-Chloro-[1,2,5]thiadiazol-3-yl)-piperazine-1-carboxylic acid (3,5-bis-trifluoromethyl-phenyl)-amide (0.1 g, 0.21 mmol, 1.0 eq.), (3-Dimethylamino-phenyl)-methanol (0.065 g, 0.062 mL, 0.43 mmol, 2.0 eq) and 1M potassium tert-butyl butoxide in t-butanol (0.65 ml, 0.65 mmol, 3.0 eq). The mixture was stirred at room temperature overnight. After removal of solvent in vacuo, the crude mixture was purified on preparative HPLC, affording the title compound N-[3,5-bis(trifluoromethyl)phenyl]-4-[4-({[3-(dimethylamino)phenyl]methyl}oxy)-1,2,5-thiadiazol-3-yl]piperazine-1-carboxamide as a white solid (0.06 g, 55% yield). 1H NMR (DMSO-d6) 9.23 (s, 1H), 8.18 (s, 2H), 7.59 (s, 1H), 7.22 (m, 1H), 6.89 (s, 1H), 6.78 (m, 2H), 5.39 (m, 4H), 3.61 (m, 4H), 3.53 (m, 4H), 2.92 (s, 6H) ppm.

reactant | 4-(4-Chloro-[1,2,5]thiadiazol-3-yl)-piperazine-1-carboxylic acid (3,5-bis-trifluoromethyl-phenyl)-amide | 0.21 mmol, 0.1 g, 1.0 eq. | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1CCN(CC1)C1=NSN=C1Cl)(F)F | C15H12ClF6N5OS
reactant | (3-Dimethylamino-phenyl)-methanol | 0.43 mmol, 0.062 mL, 0.065 g, 2.0 eq | CN(C=1C=C(C=CC1)CO)C | C9H13NO
reactant | potassium tert-butyl butoxide | 1M | C(C)(C)(C)C([O-])CCC.[K+]
reactant | t-butanol | 0.65 mmol, 0.65 ml, 3.0 eq | C(C)(C)(C)O | C4H10O
product | N-[3,5-bis(trifluoromethyl)phenyl]-4-[4-({[3-(dimethylamino)phenyl]methyl}oxy)-1,2,5-thiadiazol-3-yl]piperazine-1-carboxamide | 0.06 g, 55% yield | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1CCN(CC1)C1=NSN=C1OCC1=CC(=CC=C1)N(C)C)(F)F | C24H24F6N6O2S
